US07683060B2
4-[1-(7-Phenyl[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-yl)cyclopropyl]phenol
To a mixture of 3-[1-(4-methoxyphenyl)cyclopropyl]-6-phenyl[1,2,4]triazolo[4,3-b][1,2,4]triazine (17.0 mg, 0.0495 mmol) and 3-[1-(4-methoxyphenyl)cyclopropyl]-7-phenyl[1,2,4]triazolo[4,3-b][1,2,4]triazine (17.0 mg, 0.0495 mmol) in DCM (3.0 mL) was added 1.00 M of boron tribromide in DCM (0.5 mL). The mixture was stirred at RT for 3 h. The solvent was evaporated. The residue was diluted with methanol (5 mL). The resulting mixture was subject to preparative RP-HPLC to give the two regioisomers. Analytical LCMS: (M+H)+=330.1. Isomer-I: Rt=1.451 min; Isomer-II: Rt=1.450 min.

reactant | 3-[1-(4-methoxyphenyl)cyclopropyl]-6-phenyl[1,2,4]triazolo[4,3-b][1,2,4]triazine | 0.0495 mmol, 17.0 mg | COC1=CC=C(C=C1)C1(CC1)C1=NN=C2N1N=C(C=N2)C2=CC=CC=C2 | C20H17N5O
reactant | 3-[1-(4-methoxyphenyl)cyclopropyl]-7-phenyl[1,2,4]triazolo[4,3-b][1,2,4]triazine | 0.0495 mmol, 17.0 mg | COC1=CC=C(C=C1)C1(CC1)C1=NN=C2N1N=CC(=N2)C2=CC=CC=C2 | C20H17N5O
reactant | boron tribromide | 1.00 M | B(Br)(Br)Br | BBr3
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-(7-Phenyl[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-yl)cyclopropyl]phenol | C1(=CC=CC=C1)C1=NC=2N(N=C1)C(=NN2)C2(CC2)C2=CC=C(C=C2)O | C19H15N5O
